US07259177B2
Analogously to the building block synthesis of 4-iodomethyl-5-phenyl-2-p-tolyloxazole, diacetylmonoxime and 4-trifluoromethylbenzaldehyde gave 4-iodomethyl-5-methyl-2-(4-trifluoromethylphenyl)oxazole.

reactant | 4-iodomethyl-5-phenyl-2-p-tolyloxazole | ICC=1N=C(OC1C1=CC=CC=C1)C1=CC=C(C=C1)C | C17H14INO
reactant | diacetylmonoxime | C/C(=N\O)/C(=O)C | C4H7NO2
reactant | 4-trifluoromethylbenzaldehyde | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
product | 4-iodomethyl-5-methyl-2-(4-trifluoromethylphenyl)oxazole | ICC=1N=C(OC1C)C1=CC=C(C=C1)C(F)(F)F | C12H9F3INO
